US06046216
3-Cyano-6-(2-methoxy-4-methylsulphinylphenyl)-2(1H)-pyridinone
A solution of 3-cyano-6-(2-methoxy-4-methylthiophenyl)-2(1H)-pyridinone (1.24 g) in dichloromethane (500 ml) was treated with m-chloroperbenzoic acid (85%, 0.92 g). After 2 hours the solution was washed with sodium bicarbonate solution and evaporated to give the crude product (1.27 g, m.p. 239-241° C.). Purification by chromatography (silica, dichloromethane) followed by recrystallization from aqueous ethanol yielded the pure title compound, 0.81 g, m.p. 243-245° C.

reactant | 3-cyano-6-(2-methoxy-4-methylthiophenyl)-2(1H)-pyridinone | 1.24 g | C(#N)C=1C(NC(=CC1)C1=C(C=C(C=C1)SC)OC)=O | C14H12N2O2S
reactant | m-chloroperbenzoic acid | 0.92 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-Cyano-6-(2-methoxy-4-methylsulphinylphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1)C1=C(C=C(C=C1)S(=O)C)OC)=O | C14H12N2O3S
